US07871999B2
A suspension of 270 mg (1.05 mmol) of 1-Boc-3-(thiazol-2-ylamino)azetidine in MeCN (5 ml) was combined with 68 mg (1.2 mmol, 60% strength in mineral oil) of sodium hydride and stirred for 30 min at RT. 151 μl (1.73 mmol) of iodomethane were then added and stirring continued for a further 16 h at RT. After addition of MeOH (200 μl), evaporation under a vacuum was carried out. 166 mg (0.62 mmol, 59%) of 1-Boc-3-(methyl(thiazol-2-yl)amino)azetidine were obtained by CC (hexane/EA 3:2) with the residue.

reactant | 1-Boc-3-(thiazol-2-ylamino)azetidine | 1.05 mmol, 270 mg | C(=O)(OC(C)(C)C)N1CC(C1)NC=1SC=CN1 | C11H17N3O2S
reactant | sodium hydride | 1.2 mmol, 68 mg | [H-].[Na+]
reactant | iodomethane | 1.73 mmol, 151 μl | IC | CH3I
reactant | MeOH | 200 μl | CO | CH4O
solvent | MeCN | 5 ml | CC#N | C2H3N
solvent | hexane EA | CCCCCC.CC(OCC)=O
product | 1-Boc-3-(methyl(thiazol-2-yl)amino)azetidine | 0.62 mmol, 166 mg, 59% | C(=O)(OC(C)(C)C)N1CC(C1)N(C=1SC=CN1)C | C12H19N3O2S
